US07417147B2
Methyl(−)-cyclopentylmandelate, R(−)2
To a mixture of (−)-cyclopentylmandelic acid, R(−)1, (1.83 g, 8.3 mmol) and potassium carbonate (2.87 g, 21 mmol) in DMF (21 ml), methyl iodide (3.53 g, 25 mmol) was added at room temperature. The mixture was stirred at room temperature for 2 h, and then poured into water and extracted with hexanes three times. Evaporation of the dried hexanes extract gave a crude product. Flash chromatography of the crude product on silica gel with 1.5:1 hexanes:methylene chloride gave pure product R(−)2 (1.95 g, 100%). Analysis for C18H18O3. Calcd: C, 71.77; H, 7.74. Found: C, 71.88; H, 7.80. 1H NMR (CDCl3, 500 MHz): 1.32-1.36, 1.43-1.61 [8H, m, (CH2)4], 2.90 [1H, p, CHC(OH)], 3.71 (1H, s, OH), 3.79 (3H, s, CH3), 7.25-7.28, 7.31-7.35, 7.63-7.65 (5H, m, Ph) ppm.

reactant | (−)-cyclopentylmandelic acid | C1(CCCC1)C(C(=O)O)(O)C1=CC=CC=C1 | C13H16O3
reactant | potassium carbonate | 21 mmol, 2.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 25 mmol, 3.53 g | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 21 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl(−)-cyclopentylmandelate | C1(CCCC1)C(C(=O)OC)(O)C1=CC=CC=C1 | C14H18O3
